US07001967B2
In a one-liter autoclave were charged 400 ml of toluene as a polymerization solvent, 0.001 moles of perbutyl neodecanoate as a polymerization initiator, 0.42 moles of N-(2,6-diethylphenyl)maleimide, and 4.05 moles of isobutene, and the mixture was subjected to polymerization reaction under a polymerization condition at a polymerization temperature of 60° C. for a polymerization time of 5 hours, to obtain N-(2,6-diethylphenyl)maleimide-isobutene alternating copolymer. The thus obtained N-(2,6-diethylphenyl)maleimide-isobutene alternating copolymer had a weight average molecular weight (Mw) (as reduced into standard polystyrene) of 170,000 and an Mw/Mn of 2.6.

reactant | neodecanoate | 0.001 moles | C(CCCCCC(C)(C)C)(=O)[O-]
reactant | N-(2,6-diethylphenyl)maleimide | 0.42 moles | C(C)C1=C(C(=CC=C1)CC)N1C(C=CC1=O)=O | C14H15NO2
reactant | isobutene | 4.05 moles | C=C(C)C | C4H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-diethylphenyl)maleimide isobutene | C(C)C1=C(C(=CC=C1)CC)N1C(C=CC1=O)=O.C=C(C)C | InChI=1S/C14H15NO2.C4H8/c1-3-10-6-5-7-11(4-2)14(10)15-12(16)8-9-13(15)17;1-4(2)3/h5-9H,3-4H2,1-2H3;1H2,2-3H3
